US06660744B1
trans-3-(4-Amino-3-fluorophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (77 mg, 0.182 mmol) was suspended in pyridine (1 mL). A solution of 3-methoxyphenylisocyanate (30 mg, 0.200 mmol) in pyridine (1 mL) was added to the reaction mixture and stirring was continued for 19 hours. The reaction mixture was concentrated under reduced pressure to yield the crude product as a pale yellow oil (149 mg). The crude material was purified on RP-HPLC (Waters PrepLC 4000, flow rate: 10 mL/min. λ=254 nm Gradient: 10% to 30% acetonitrile/0.1M aqueous ammonium acetate gradient over 40 minutes; Deltapak C18, 300A, 15 μm, 40×100 mm column) to afford trans-N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-N′-(3-methoxyphenyl)urea as a white solid (76 mg, 0.133 mmol). HPLC-RT: 12.33 min. (flow rate: 1 mL/min λ=254 nm Gradient: 5% to 85% acetonitrile/0.1M aqueous ammonium acetate gradient over 20 min.; Deltapak C18, 300A, 5 μm, 150×3.9 mm column); m/z (MH+)=574.2.

reactant | trans-3-(4-Amino-3-fluorophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.182 mmol, 77 mg | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)F | C22H29FN8
reactant | 3-methoxyphenylisocyanate | 0.200 mmol, 30 mg | COC=1C=C(C=CC1)N=C=O | C8H7NO2
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | trans-N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-N′-(3-methoxyphenyl)urea | 0.133 mmol, 76 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)NC2=CC(=CC=C2)OC)F)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C30H36FN9O2
